US05849743
a) 4-Chloro-N-cyclohexyl-2-nitroaniline
51.5 g (0.27 mol) of 2,5-dichloronitrobenzene, 22.3 g (0.27 mol) of cyclohexylamine, 74.6 g (0.54 mol) of potassium carbonate and 0.5 g of 18-crown-6 were heated in 300 ml of dimethylformamide at 100° C. for 4 h. The mixture was then poured into water and extracted with ethyl acetate. The organic phase was dried and concentrated under reduced pressure. The residue was recrystallized from i-propanol, resulting in 42.3 g (62%) of the product. Melting point 101°-103° C.

reactant | 2,5-dichloronitrobenzene | 0.27 mol, 51.5 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | cyclohexylamine | 0.27 mol, 22.3 g | C1(CCCCC1)N | C6H13N
reactant | potassium carbonate | 0.54 mol, 74.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 4-Chloro-N-cyclohexyl-2-nitroaniline | 42.3 g, 62% | ClC1=CC(=C(NC2CCCCC2)C=C1)[N+](=O)[O-] | C12H15ClN2O2
